US04118567
By the procedure of Example 2, N-cyclopropyl-2-(2-pyridyl)thioacetamide is reacted with formaldehyde and morpholine in methanol to give N-cyclopropyl-3-morpholino-2-(2-pyridyl)thiopropanamide.

reactant | N-cyclopropyl-2-(2-pyridyl)thioacetamide | C1(CC1)NC(CC1=NC=CC=C1)=S | C10H12N2S
reactant | formaldehyde | C=O | CH2O
reactant | morpholine | N1CCOCC1 | C4H9NO
solvent | methanol | CO | CH4O
product | N-cyclopropyl-3-morpholino-2-(2-pyridyl)thiopropanamide | C1(CC1)NC(C(CN1CCOCC1)C1=NC=CC=C1)=S | C15H21N3OS
